* /Users/marco/Dropbox/NASC/IoT Kit/NASC IoT Kit v1.1/IoT Kit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: vrijdag 09 juni 2017 09:49:43

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
J1  ? +5V GPIO02-SDA1-I2C ? GPIO03-SCL1-I2C ? ? ? ? ? GPIO17 GPIO18 GPIO27 ? GPIO22 GPIO23 +3V3 GPIO24 ? ? ? ? ? ? ? ? ? ? GPIO5 ? GPIO6 ? ? ? ? GPIO16 ? ? GNDD ? RPi_GPIO		
R2  Net-_C1-Pad2_ GNDD 10K		
R4  GPIO5 Net-_C1-Pad2_ 1K		
SW1  +3V3 Net-_C1-Pad2_ SW_Push		
R7  Net-_C2-Pad2_ GNDD 10K		
R9  GPIO18 Net-_C2-Pad2_ 1K		
SW2  +3V3 Net-_C2-Pad2_ SW_Push		
R1  Net-_D1-Pad1_ GNDD 470		
D1  Net-_D1-Pad1_ GPIO6 LED		
R3  Net-_D2-Pad1_ GNDD 470		
D2  Net-_D2-Pad1_ GPIO17 LED		
R5  Net-_D3-Pad1_ GNDD 470		
D3  Net-_D3-Pad1_ GPIO18 LED		
R6  Net-_D4-Pad1_ GNDD 470		
D4  Net-_D4-Pad1_ GPIO27 LED		
U1  +5V GPIO16 GNDD DHT11		
R8  Net-_D5-Pad1_ GNDD 470		
D5  Net-_D5-Pad1_ GPIO22 LED		
R10  Net-_D6-Pad1_ GNDD 470		
D6  Net-_D6-Pad1_ GPIO23 LED		
R11  Net-_D7-Pad1_ GNDD 470		
D7  Net-_D7-Pad1_ GPIO24 LED		
U2  Net-_A0-Pad1_ ? ? ? GNDD GNDD GNDD GNDD GPIO02-SDA1-I2C GPIO03-SCL1-I2C ? GNDA GNDA +3V3 ? +5V PCF8591		
BH1  GNDD GPIO02-SDA1-I2C GPIO03-SCL1-I2C GNDD +3V3 BH1750		
I2C-1  GPIO03-SCL1-I2C GPIO02-SDA1-I2C +5V GNDD GROVE-CONNECTOR-DIP_4P-2.0_		
A0  Net-_A0-Pad1_ ? +5V GNDD GROVE-CONNECTOR-DIP_4P-2.0_		
C1  +3V3 Net-_C1-Pad2_ C		
C2  +3V3 Net-_C2-Pad2_ C		

.end
